US05041458
Preparation of N-[(2,4-Dichlorophenyl)(4-fluorophenyl)-methyl]-N-methyl-1H-1,2,4-triazol-1-amine
A solution of 40.0 g (0.119 mol) of N-[1-(2,4-dichlorophenyl)-1-(4-fluorophenyl)methyl]-1H-1,2,4-triazol-1-amine and 40 mL (0.64 mol) of methyl iodide in 250 mL dimethyl formamide was cooled to 0° C. Sodium hydride (4.5 g; 0.19 mol, freed from oils) was added portionwise. The reaction mixture was warmed to room temperature, stirred 1 h and quenched by dropwise addition of aqueous ammonium chloride. The mixture was diluted with ether, and washed three times with water and with brine. Drying (MgSO4) and removal of solvent gave product as an oil. Crystallization from hexanes afforded 27.7 g (66% yield) of the desired product as a white solid; mp 118°-119° C.

reactant | N-[1-(2,4-dichlorophenyl)-1-(4-fluorophenyl)methyl]-1H-1,2,4-triazol-1-amine | 0.119 mol, 40.0 g | ClC1=C(C=CC(=C1)Cl)C(C1=CC=C(C=C1)F)NN1N=CN=C1 | C15H11Cl2FN4
reactant | methyl iodide | 0.64 mol, 40 mL | CI | CH3I
reactant | Sodium hydride | 0.19 mol, 4.5 g | [H-].[Na+]
solvent | dimethyl formamide | 250 mL | CN(C=O)C | C3H7NO
product | N-[(2,4-Dichlorophenyl)(4-fluorophenyl)-methyl]-N-methyl-1H-1,2,4-triazol-1-amine | 27.7 g, 66% yield | ClC1=C(C=CC(=C1)Cl)C(N(N1N=CN=C1)C)C1=CC=C(C=C1)F | C16H13Cl2FN4
